Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
s/p MVC
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mr. ___ is a ___ year old male s/p MVC vs tree admitted on 
___.  He stated he had a positive loss of consciousness.  He was 
intoxicated on arrival. He was found to have a right ___ 
fractures.  , L distal ___ minimally displaced ulnar fx, R 
distal ___
open wound with tibial fracture
 
Family History:
Non-contributory
 
Physical Exam:
On admission (in ED):

HR: 87 BP: 125/p Resp: 12 O(2)Sat: 97% Normal
 
Constitutional: Comfortable
HEENT: Normocephalic, atraumatic, Pupils equal, round and
reactive to light, Extraocular muscles intact
Oropharynx within normal limits
Chest: Clear to auscultation
Cardiovascular: Regular Rate and Rhythm, Normal first and
second heart sounds
Abdominal: Soft, Nontender
GU/Flank: No costovertebral angle tenderness
Extr/Back: No cyanosis, clubbing or edema
Skin: 4 x 5 cm ragged laceration on the anterior aspect of
the right ankle. Neurovascular intact distally
Neuro: Speech fluent

On discharge:

VS 98.7, 67, 113/70, 14, 98% on room air
Neuro: AAO x 3, ___ strength in all extremities.
Pulm:  Lungs clear bilaterally.
Extrem:  LUE in short-arm cast.  Sensation intact.  Full ROM in 
digits.  RLE shin wound with most superior portion more deeply 
injured.  Wound approximated with some scant bleeding noted.  
Inferior wound more superficial and dry.  
 
Pertinent Results:
___ 06:30AM BLOOD WBC-5.6 RBC-3.98* Hgb-11.0* Hct-36.0* 
MCV-90 MCH-27.5 MCHC-30.5* RDW-12.6 Plt ___
___ 06:30AM BLOOD WBC-7.1# RBC-4.11* Hgb-11.1* Hct-37.1* 
MCV-90 MCH-27.1 MCHC-30.1* RDW-12.7 Plt ___
___ 10:15AM BLOOD WBC-15.2* RBC-4.47* Hgb-12.8* Hct-40.3 
MCV-90 MCH-28.6 MCHC-31.8 RDW-12.4 Plt ___
___ 08:24AM BLOOD WBC-18.1* RBC-4.77 Hgb-13.2* Hct-43.0 
MCV-90 MCH-27.7 MCHC-30.8* RDW-12.4 Plt ___
___ 10:15AM BLOOD Neuts-87.3* Lymphs-8.6* Monos-3.2 Eos-0.5 
Baso-0.3
___ 08:24AM BLOOD Neuts-82* Lymphs-13* Monos-5 Eos-0 Baso-0
___ 06:30AM BLOOD ___ PTT-30.2 ___
___ 06:30AM BLOOD Glucose-82 UreaN-14 Creat-1.2 Na-140 
K-4.0 Cl-104 HCO3-25 AnGap-15
___ 08:20AM BLOOD Glucose-98 UreaN-14 Creat-1.3* Na-137 
K->10 Cl-102 HCO3-24
___ 06:30AM BLOOD Calcium-8.6 Phos-3.5 Mg-2.0
___ 06:30AM BLOOD Calcium-8.7 Phos-3.1 Mg-1.9
___ 07:04AM BLOOD ASA-NEG ___ Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

Pertinent Imaging:

___ CT chest, abdomen, pelvis
1.  Minimally displaced fractures of the right fourth, fifth, 
and sixth ribs. 
2.  Pulmonary contusions in the anterior right upper, middle, 
and lower lobes. No evidence of pneumothorax or pleural fluid. 
3.  No evidence of intra-abdominal trauma. 

___ Right tib/fib
Cortical irregularity of the tibial diaphysis anteriorly with 
overlying soft tissue air, likely secondary to lacerated 
bone/open fracture. 

___ Left radius/ulna
Three views of the left forearm were reviewed. 
  
Non-displaced horizontal fracture of the distal ulna is 
demonstrated with 
associated soft tissue swelling.  No other abnormalities in the 
imaged portion of the skeleton seen. 

  

 
Brief Hospital Course:
Mr. ___ was admitted to the Acute Care Surgery service after 
he was admitted status post motor vehicle collision with a tree. 
 There was a prolonged extrication time.  He was transferred to 
___ for evaluation and further management.  On admission, he 
alcohol level was 188.  Imaging of his spine and head were 
negative for any acute process.  He was found to have 
right-sided rib fractures (___), a left distal ulnar fracture 
and questionable left tibial fracture.  That lower extremity 
injury was later found to be a cortical diaphysis disruption (no 
fracture) with soft tissue injury (open laceration).  The 
patient was admitted to the inpatient ward for continued 
management and observation.

Mr. ___ left upper extremity was placed in a short-arm 
cast by the orthopedic surgery service.  His right lower 
extremity wound was irrigated and required no operative 
management.  The patient was given IV cefazolin for the RLE 
injury.  He was initially kept NPO until it was determined that 
he would not need operative intervention.  After that time, he 
was started on a regular diet, which he tolerated without issue. 
 He was given parenteral and enteral analgesics.  He required 
little to no opioid analgesics during his admission.  In 
preparation for discharge, his IV antibiotics were discontinued 
and per Orthopedics recommendations, he was given a prescription 
for a seven day course of cephalexin.

Prior to discharge, Mr. ___ was seen by Physical Therapy and 
Occupational Therapy.  The patient was weight bearing as 
tolerated to his lower extremities.  He ambulated well and 
required no devices for assistance.  He was instructed to bear 
no weight to his LUE until follow up with Orthopedics.  
Occupational therapy felt that he had no cognitive issues nor 
impairments of his tactile/physical functioning of the LUE.  
Both services recommended discharge to home.

At the time of discharge, Mr. ___ was a febrile, 
hemodynamically stable and in no acute distress. Appointments 
were scheduled for the patient to follow-up with ACS and 
Orthpedics.  Instructions included care for the patient's LUE 
cast.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H:PRN pain 
2. Cephalexin 500 mg PO QID Duration: 7 Days 
RX *cephalexin 500 mg 1 capsule(s) by mouth four times a day 
Disp #*28 Capsule Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
- Right ___ minimally displaced rib fractures
- Right pulmonary contusion
- Non-displaced left ulna fracture
- Right tibial fracture 
- Anterior right upper, middle, and lower lobe pulmonary 
contusions
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
You were admitted to ___ on 
___ after you were involved in an automobile accident.  You 
also lost consciousness.  You were transferred to ___ for 
further evaluation and observation.  Specifically, you were 
found to have the following injuries:

- Right ___ minimally displaced rib fractures
- Right pulmonary contusion
- Non-displaced left ulna fracture
- Right tibial fracture 

Prior to discharge, you were seen by physical therapy and 
occupational therapy.  Both services recommend that you could be 
discharged safely to home.

In regards to your rib fractures, they can cause you to take 
shallow breaths because of the pain. You should take your pain 
medicine as as directed to stay ahead of the pain otherwise you 
won't be able to take deep breaths.  

Pneumonia is a complication of rib fractures. In order to 
decrease your risk you must use your incentive spirometer 4 
times every hour while awake. This will help expand the small 
airways in your lungs and assist in coughing up secretions that 
pool in the lungs. 

Symptomatic relief with ice packs or heating pads for short 
periods may ease the pain.

Do NOT smoke.

Return to the ED right away for any acute shortness of breath, 
increased pain or crackling sensation around your rips 
(crepitus).

You may take non-steriodal anti-inflammatory drugs to control 
the pain (i.e. Ibuprofen, Motrin, Advil, Aleve, Naprosyn) or 
Tylenol.

In regards to your Orthopedic injuries:
You were seen by the orthopedics service.  Your left arm was 
placed in a short arm case but required no operative fixation.  
Your right leg also required no surgical intervention.  Your 
soft tissue/skin wound was covered with gauze and treated 
conservatively.

CAST CARE
- Do not bear any weight with your left arm until you follow up 
with the orthopedic service (appointment below).
- Cast care:  Do not remove the splint.  
Check your cast every day: Contact your primary healthcare 
provider if you notice cracks, dents, holes, or flaking. 

Keep your cast clean and dry: Cover your cast with a towel when 
you eat. You may have a small piece of cast that can be removed 
to check on incisions under your cast. Make sure the small piece 
of cast is kept tightly closed. If your cast gets dirty, use a 
mild detergent and a damp washcloth to wipe off the outside of 
your cast. Continue to cover your cast with trash bags to keep 
it dry while you bathe. 

Care for the edges of your cast: Cover the cast edges to keep 
them smooth. Use 4 inch pieces of waterproof tape. Place one end 
of the tape under the inside edge of your cast and fold it over 
to the outside surface. Overlap tape strips until the edges are 
completely covered. Change the tape as directed. Do not pull or 
repair any of the padding from inside the cast. This could cause 
blisters and sores on the skin under your cast. 

Keep weight off your cast: Do not let anyone push down or lean 
on your cast. This may cause it to break.

Do not use sharp objects: Do not use a sharp or pointed object 
to scratch under your cast. This may cause wounds that can get 
infected, or you may lose the item inside the cast. If your skin 
itches, blow cool air under the cast. You may also gently 
scratch your skin outside the cast with a cloth. 

Contact your primary healthcare provider ___: 

Something falls into your cast and gets stuck.

You have itching, pain, burning, or weakness in the casted body 
area. 

You have a fever. 

You have sores, blisters, or breaks on the skin around the edges 
of the cast.

You have questions or concerns about your condition or care.

Seek care immediately or call ___ if: 

Your cast breaks or gets damaged. 

You see drainage, or your cast is stained or smells bad. 

Your skin turns blue or pale. 

Your skin tingles, burns, or is cold or numb. 

You have severe pain that is getting worse and does not go away 
after you take pain medicine. 

There is no space between your skin and the cast, and your cast 
looks or feels tighter than it has before. 

You have trouble breathing and chest pain. 

 
Followup Instructions:
___